US05773448
1-(2-Chloroethyl)-lH-indol-2,3-dione (5.24 g) [C.A. Reg no. 77218-99-6] was suspended in acetic acid (50 ml) and hydrogenated at 60 p.s.i., at room temperature, in the presence of 70% perchloric acid (0.2 ml) and 5% palladium on charcoal (1 g) for 24 hours. The clear solution was filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel, eluent chloroform, to give 1-(2-chloroethyl)-1,3-dihydro-2H-indol-2-one as a white solid.

reactant | 1-(2-Chloroethyl)-lH-indol-2,3-dione | 5.24 g | ClCCN1C(C(C2=CC=CC=C12)=O)=O | C10H8ClNO2
reactant | perchloric acid | 0.2 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 1-(2-chloroethyl)-1,3-dihydro-2H-indol-2-one | ClCCN1C(CC2=CC=CC=C12)=O | C10H10ClNO
